US09428509B2
4-(2,4-Dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide
2,4-Dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), (4-(methylcarbamoyl)phenyl)boronic acid (1.2 equiv), sodium carbonate (3 equiv) and [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complex with dichloromethane (0.1 equiv) were combined in a 5:1 mixture of 1,4-dioxane and water (0.27 M). The mixture was heated to 90° C. for 3 h. The crude product was purified on silica gel (0-100% ethyl acetate in hexane) to give the title compound (68% yield) an orange solid. MS (ESI) m/z 451.2 [M]+.

reactant | 2,4-Dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)Cl | C12H16Cl2IN3OSi
reactant | (4-(methylcarbamoyl)phenyl)boronic acid | 1.2 equiv | CNC(=O)C1=CC=C(C=C1)B(O)O | C8H10BNO3
reactant | sodium carbonate | 3 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | 0.1 equiv | ClCCl | CH2Cl2
solvent | water | 0.27 M | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 4-(2,4-Dichloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide | 68% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C(=O)NC)C=C2)COCC[Si](C)(C)C)Cl | C20H24Cl2N4O2Si
